US05864039
4-Amino-N-(1-(4-aminobutyl)piperidin-4-ylmethyl)-5-chloro-2-methoxybenzamide (1.00 g) was dissolved in a mixed solvent of dichloromethane (20 ml) and dimethylformamide (15 ml). Triethylamine (0.57 ml) was added, and a solution of benzenesulfonyl chloride (0.35 ml) in methylene chloride was dropwise added under ice-cooling. The mixture was stirred at room temperature. Insoluble matter was filtered off and the filtrate was concentrated under reduced pressure. The obtained residue was purified by silica gel chromatography to give 0.57 g of 4-amino-N-(1-(4-benzenesulfonylaminobutyl)piperidin-4-ylmethyl)-5-chloro-2-methoxybenzamide.

reactant | 4-Amino-N-(1-(4-aminobutyl)piperidin-4-ylmethyl)-5-chloro-2-methoxybenzamide | 1.00 g | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCN)C=C1Cl)OC | C18H29ClN4O2
reactant | Triethylamine | 0.57 ml | C(C)N(CC)CC | C6H15N
reactant | benzenesulfonyl chloride | 0.35 ml | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-amino-N-(1-(4-benzenesulfonylaminobutyl)piperidin-4-ylmethyl)-5-chloro-2-methoxybenzamide | 0.57 g | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCNS(=O)(=O)C2=CC=CC=C2)C=C1Cl)OC | C24H33ClN4O4S
